US05962458
A solution of 1-(3-(2-tetrahydropyranyloxy)propyl)-1,2-dihydro-2-pyridone (1.0 g, 4.5 mmol) in acetic acid (8 ml), THF (4 ml) and water (2 ml) was heated at 50° C. for 4 hours. The volatiles were removed by evaporation and the residue azeotroped with toluene to give 1-(3-hydroxypropyl)-1,2-dihydro-2-pyridone (680 mg, 99%) as an off-white solid.

reactant | 1-(3-(2-tetrahydropyranyloxy)propyl)-1,2-dihydro-2-pyridone | 4.5 mmol, 1.0 g | O1C(CCCC1)OCCCN1C(C=CC=C1)=O | C13H19NO3
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 1-(3-hydroxypropyl)-1,2-dihydro-2-pyridone | 680 mg, 99% | OCCCN1C(C=CC=C1)=O | C8H11NO2
